US05143912
A suspension of 0.9 g of tert.-butyl [2-(4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxamido)ethyl]carbamate in 1.6 ml of trifluoroacetic acid was stirred at room temperature. The reaction was finished after about 15 minutes and the reaction mixture was treated slowly with 36 ml of 0.25N sodium hydroxide solution, whereby the product crystallized out. The product was stirred for a short time and then filtered off under suction. After chromatography on silica gel with methylene chloride/methanol (9:1 and 2:1) and recrystallization from methanol there was obtained 0.31 g of N-(2-aminoethyl)-4,5-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxamide with a m.p. of 216°-218°.

reactant | tert.-butyl [2-(4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxamido)ethyl]carbamate | 0.9 g | O=C1C(=CC(=C2N1CC1=CC=CC=C21)C(=O)NCCNC(OC(C)(C)C)=O)C2=CC=CC=C2 | C26H27N3O4
reactant | sodium hydroxide | 0.25N, 36 ml | [OH-].[Na+]
solvent | trifluoroacetic acid | 1.6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-aminoethyl)-4,5-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxamide | 0.31 g | NCCNC(=O)C1=CC(C(N2C1=C1C=CC=CC1=C2)=O)C2=CC=CC=C2 | C21H19N3O2
